US05919779
A mixture of 3-bromo-4-(2-ethylaminopyridin-3-yl)thiophene [synthesis described above] (0.757 g), 2, 6-dichloro-3-tributylstannylpyridine (1.331 g), triphenylarsine (0.261 g), and trisdibenzylideneacetone dipalladium (0.092 g) in N-methylpyrrolidinone (3 mL) was heated at 100° C. for 48 hours. Tetrabutylammonium fluoride (1M in tetrahydrofuran, 3 mL) was added . After 2 hours, the mixture was diluted with ethyl acetate, washed with water, dried, filtered and evaporated. The residue was fractionated by chromatography to give 3-(2,6-dichloropyridin-3-yl)-4-(2-ethylaminopyridin-3-yl)thiophene (0.059 g) which was used directly in the next step. To a solution of 3-(2,6-dichloropyridin-3-yl)-4-(2-ethylaminopyridin-3-yl)thiophene (0.059 g) in tetrahydrofuran (2 mL) was added sodium hexamethyldisilazide (1 molar in tetrahydrofuran, 1 mL). After 20 minutes, the reaction was quenched with methanol, diluted with ethyl acetate, washed with water, dried, filtered and evaporated. The residue was fractionated by chromatography to give 6-chloro-8-ethyl-thienyl[3',4':6,5]dipyrido[2,3-b:3',2'-f]azepine (0.024 g) mp 139-141° C.

reactant | 3-bromo-4-(2-ethylaminopyridin-3-yl)thiophene | 0.757 g | BrC1=CSC=C1C=1C(=NC=CC1)NCC | C11H11BrN2S
reactant | 2, 6-dichloro-3-tributylstannylpyridine | 1.331 g | ClC1=NC(=CC=C1[Sn](CCCC)(CCCC)CCCC)Cl
reactant | triphenylarsine | 0.261 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | Tetrabutylammonium fluoride | 1M, 3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N-methylpyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2,6-dichloropyridin-3-yl)-4-(2-ethylaminopyridin-3-yl)thiophene | 0.059 g | ClC1=NC(=CC=C1C1=CSC=C1C=1C(=NC=CC1)NCC)Cl | C16H13Cl2N3S
